US04268442
A 20% aqueous solution of methyl mercaptan sodium salt (12.0 g, 34 mmoles) and potassium hydroxide (4.2 g, 66 mmoles) were dissolved in ethanol (25 ml). To the resulting mixture was added dropwise 1-(4-chlorophenyl)-2,2,2-trichloroethanol (4.0 g, 15.5 mmoles) dissolved in ethanol (10 ml) under water-cooling, and the mixture was stirred at room temperature for one day. Water and diethyl ether were added to remove any ether-soluble materials. The aqueous layer was rendered acidic with dilute hydrochloric acid, extracted with ethyl acetate, washed with water and dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated and purified by silica gel column chromatography to afford 2.1 g of α-methylthio-p-chlorophenylacetic acid. Yield 62%.

reactant | methyl mercaptan sodium salt | 34 mmoles, 12.0 g | [Na].CS
reactant | potassium hydroxide | 66 mmoles, 4.2 g | [OH-].[K+]
reactant | 1-(4-chlorophenyl)-2,2,2-trichloroethanol | 15.5 mmoles, 4.0 g | ClC1=CC=C(C=C1)C(C(Cl)(Cl)Cl)O | C8H6Cl4O
reactant | Water | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | α-methylthio-p-chlorophenylacetic acid | 2.1 g, Yield 62% | CSC(C(=O)O)C1=CC=C(C=C1)Cl | C9H9ClO2S
